US04956462
Synthesis of diphenylmethyl 7-amino-3-[(5-carboxy-2-hydroxymethyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate
To a suspension of 10 g of 7-amino-3-[(5-carboxy-2-hydroxymethyl-s-triazolo[1,5-a]pyrimidin-7yl)thiomethyl]-3-cephem-4-carboxylic acid, 100 ml of methanol and 300 ml of methylene chloride was added dropwise while stirring diphenyldiazomethane, which had been synthesized from 19.6 g of benzophenonehydrazone, 21.6 g of mercuric oxide (yellow) and 150 ml of n-hexane, in 30 ml of methylene chloride, and the mixture was stirred at room temperature overnight. After the reaction mixture was condensed and ether was added thereto to effect crystallization. The crystals were collected by filtration and dried to obtain 13.9 g of the title compound.

reactant | 7-amino-3-[(5-carboxy-2-hydroxymethyl-s-triazolo[1,5-a]pyrimidin-7yl)thiomethyl]-3-cephem-4-carboxylic acid | 10 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)CO)C(=O)O)C(=O)O)C1=O | C15H14N6O6S2
reactant | methanol | 100 ml | CO | CH4O
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | benzophenonehydrazone | 19.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
solvent | n-hexane | 150 ml | CCCCCC | C6H14
product | diphenylmethyl 7-amino-3-[(5-carboxy-2-hydroxymethyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate | 13.9 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)CO)C(=O)O)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O | C28H24N6O6S2
